US07935724B2
A solution of benzo[b]thiophene-2,5-dicarboxylic acid 5-methyl ester (191.3 mg, 0.81 mmol), O -(Tetrahydro-pyran-2-yl)-hydroxylamine (93 mg, 0.79 mmol), EDC (231 mg, 1.20 mmol), HOBt (107 mg, 0.79 mmol) and DIEA (0.30 mL, 2.2 mmol) in anhydrous THF (8 mL) was allowed to stir at rt for three days and then concentrated. To the residue was added MeOH (1 mL) and water (10 mL) and Et2O (5 mL). After stirring for 2 h, the solid formed was washed with water (2×3 mL) and Et2O (5 mL), and dried to give 2-(tetrahydro-pyran-2-yloxycarbamoyl)-benzo[b]thiophene-5-carboxylic acid methyl ester as a pale solid). MS (EI): cal'd 252.0 (M−THP+H+), exp 252.1 (M−THP+H+).

reactant | benzo[b]thiophene-2,5-dicarboxylic acid 5-methyl ester | 0.81 mmol, 191.3 mg | COC(=O)C1=CC2=C(SC(=C2)C(=O)O)C=C1 | C11H8O4S
reactant | (Tetrahydro-pyran-2-yl)-hydroxylamine | 0.79 mmol, 93 mg | O1C(CCCC1)NO | C5H11NO2
reactant | EDC | 1.20 mmol, 231 mg
reactant | HOBt | 0.79 mmol, 107 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 2.2 mmol, 0.30 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2-(tetrahydro-pyran-2-yloxycarbamoyl)-benzo[b]thiophene-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(SC(=C2)C(NOC2OCCCC2)=O)C=C1 | C16H17NO5S
